US04659809
To 200 ml of acetone were added 10.0 g of D-fructose and 89.7 mg of antimony pentachloride, and the mixture was refluxed with stirring in a water bath of 60° C. for 8 hours. During this reaction, the refluxing solvent was dried with 20 g of Molecular Sieves 3A interposed between the reaction vessel and the condenser. After completion of the reaction, a small amount of pyridine was added to the reaction mixture, and the acetone was distilled off under reduced pressure. The residue was dissolved in benzene, and the benzene solution was washed with aqueous sodium bicarbonate and water successively, and then dried over anhydrous magnesium sulfate. The benzene was distilled off to give 12.09 g (83.7%) of 2,3:4,5-di-O-isopropylidene-β-D-fructopyranose. The compound, when recrystallized from n-hexane, showed m.p. 96°-98° C.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | D-fructose | 10.0 g | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | antimony pentachloride | 89.7 mg | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,3:4,5-di-O-isopropylidene-β-D-fructopyranose | 12.09 g, 83.7% | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)CO)C | C12H20O6
